US07820699B2
101.1 To a stirred, cooled (0° C.) solution of 3.18 g N-benzyl-N-(methoxymethyl)trimethyl-silylmethylamine (CAS 93102-05-7) in 30 ml CH2Cl2 under an argon atmosphere was added dropwise a solution of 1.69 g (E)-3-cyclopropyl-acrylic acid methyl ester (CAS 59939-11-6; J. Org. Chem. 1990, 55(10), 3097) in 15 ml CH2Cl2 over a period of 20 min. Then a solution of 0.1 ml TFA in 5 ml CH2Cl2 was added dropwise within 10 min. When addition was complete, the mixture (slowly warming up to room temperature) was stirred overnight. Then, the mixture was diluted with CH2Cl2, washed with sat. aq. NaHCO3 and brine, dried over MgSO4, filtered and concentrated. The crude product was isolated by chromatography (silica gel; (gradient: cyclohexane->cyclohexane/EtOAc 7:3) to give 1.14 g (3RS,4RS)-1-benzyl-4-cyclopropyl-pyrrolidine-3-carboxylic acid methyl ester as light yellow oil. MS 260.3 ([M+H]+)

reactant | N-benzyl-N-(methoxymethyl)trimethyl-silylmethylamine | 3.18 g | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | (E)-3-cyclopropyl-acrylic acid methyl ester | 1.69 g | COC(\C=C\C1CC1)=O | C7H10O2
reactant | TFA | 0.1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | cyclohexane EtOAc | C1CCCCC1.CCOC(=O)C
product | (3RS,4RS)-1-benzyl-4-cyclopropyl-pyrrolidine-3-carboxylic acid methyl ester | 1.14 g | COC(=O)C1CN(CC1C1CC1)CC1=CC=CC=C1 | C16H21NO2
